US04859700
Stage A: 2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetic acid benzyl ester
A solution of 0.204 mol of 5-chloro-2,3-dihydro-2-oxo-3-phenylbenzofuran in 200 ml of anhydrous dimethylformamide is added to a suspension of 0.204 mol of sodium hydride in 100 ml of anhydrous dimethylformamide. The medium is maintained with stirring at room temperature for one hour, 0.224 mol of benzyl bromoacetate is then added slowly and the medium is left for 12 hours at room temperature. The reaction mixture is concentrated under vaccuum and hydrolyzed using one liter of water, the aqueous phase extracted with twice 250 ml of benzene, the organic phase dried over anhydrous sodium sulfate and the solvent evaporated off. The residue is washed with isopropyl ether and then filtered. 0.173 mol is thereby obtained.

reactant | 5-chloro-2,3-dihydro-2-oxo-3-phenylbenzofuran | 0.204 mol | ClC=1C=CC2=C(C(C(O2)=O)C2=CC=CC=C2)C1 | C14H9ClO2
reactant | sodium hydride | 0.204 mol | [H-].[Na+]
reactant | benzyl bromoacetate | 0.224 mol | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1(C(OC2=C1C=C(C=C2)Cl)=O)C2=CC=CC=C2)=O | C23H17ClO4
